US06444668B1
5-Bromo-2-fluorobenzyl bromide (8.0 g, 0.03 mole) was dissolved in 1,4-Dioxane (60 mL) and added to a solution of KCN (2.04 g, 0.031 mole) in H2O (20 mL) and ethanol ( 20 mL). The resulting mixture was heated under reflux for 5 h. After cooling to rt, the product was extracted with ether ( 200 mL), washed with brine, dried over MgSO4, concentrated. Crystallized from ether/hexane to give 5-bromo-2-fluorophenylacetonitrile as a white crystalline material (5.6 g, 88%): rp 55-58° C.; 1H NMR (DMSO-d6) □ 4.07 (s, 2H), 7.29( t, 1H,J=9.23 Hz), 7.60-7.69( m, 2H); MS(EI) M+ m/z 213 ; Anal. Calc. For C8H5Br2FN: C, 44.89, H, 2.35, N, 6.54. Found: C, 44.90, H, 2.24, N, 6.43.

reactant | 5-Bromo-2-fluorobenzyl bromide | 0.03 mole, 8.0 g | BrC=1C=CC(=C(CBr)C1)F | C7H5Br2F
reactant | KCN | 0.031 mole, 2.04 g | [C-]#N.[K+]
solvent | 1,4-Dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 20 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-bromo-2-fluorophenylacetonitrile | BrC=1C=CC(=C(C1)CC#N)F | C8H5BrFN
